US07439263B2
Step A: 3-Oxaspiro[5.5]undec-7-en-9-one
0.5 ml of sulphuric acid is added to 317 mmol of tetrahydro-2H-pyran-4-carboxaldehyde and 317 mmol of methyl vinyl ketone in 500 ml of benzene. The reaction mixture is then refluxed for 3 hours, water being removed using a Dean-Stark apparatus, and then a further 317 mmol of methyl vinyl ketone are added and reflux is continued for 3 hours. The mixture is subsequently washed, dried and then concentrated, and the residue obtained is distilled to yield the expected product.

reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | tetrahydro-2H-pyran-4-carboxaldehyde | 317 mmol | O1CCC(CC1)C=O | C6H10O2
reactant | methyl vinyl ketone | 317 mmol | C(=C)C(=O)C | C4H6O
reactant | methyl vinyl ketone | 317 mmol | C(=C)C(=O)C | C4H6O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 3-Oxaspiro[5.5]undec-7-en-9-one | C1COCCC12C=CC(CC2)=O | C10H14O2
